### PR TITLE
[Merged by Bors] - feat: lemma limsup_const_add + 7 variants

### PR DESCRIPTION
**Pull request by kkytola**
Add 8 lemmas: `limsup_const_add`, ..., `liminf_sub_const`.

The 4 lemmas about `add` are proven with typeclass assumptions which apply to `ℝ`, `ℝ≥0`, and `ℝ≥0∞` (at least). The 4 lemmas about `sub` are proven with typeclass assumptions which apply to `ℝ` and `ℝ≥0` (at least). For `ℝ≥0∞`, we add separate implementations of these latter 4 lemmas `ENNReal.liminf_sub_const`, ...

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Topology/Algebra/Order/LiminfLimsup.lean [hunk 1]
```diff
@@ -6,6 +6,8 @@ Authors: Johannes Hölzl, Mario Carneiro, Yury Kudryashov
 import Mathlib.Algebra.BigOperators.Intervals
 import Mathlib.Algebra.BigOperators.Order
 import Mathlib.Algebra.IndicatorFunction
+import Mathlib.Topology.Algebra.Group.Basic
```
Comment (kkytola) [inline Mathlib/Topology/Algebra/Order/LiminfLimsup.lean:9]: Maybe adding the import suggests that the lemmas need to be placed elsewhere?

**Comment by ADedecker** [comment]
Maybe I'm missing something, but it seems like [tsub_le_tsub_right](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/Order/Sub/Defs.html#tsub_le_tsub_right) is the generalization of [sub_le_sub_right](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/Order/Group/Defs.html#sub_le_sub_right) you are looking for?

**Comment by kkytola** [comment]
> Maybe I'm missing something, but it seems like [tsub_le_tsub_right](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/Order/Sub/Defs.html#tsub_le_tsub_right) is the generalization of [sub_le_sub_right](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/Order/Group/Defs.html#sub_le_sub_right) you are looking for?

You are absolutely right, thank you! So the only remaining asymmetry in the assumptions is that the lemmas about `sub` assume 5 typeclasses `[AddCommSemigroup R] [Sub R] [ContinuousSub R] [OrderedSub R] [CovariantClass R R (fun x y ↦ x + y) fun x y ↦ x ≤ y]` (including commutativity of addition, and orderedness of subtraction), whereas the lemmas about `add` only assumed `[Add R] [ContinuousAdd R] [CovariantClass R R (fun x y ↦ x + y) fun x y ↦ x ≤ y]`. The typeclass assumptions that were required by `tsub_le_tsub_right` now make the lemmas applicable to `ℝ≥0`, but not `ℝ≥0∞`.

I realized that I incorrectly claimed that all of these would apply to `ℝ≥0∞` --- for example `limsup_sub_const` is actually false for `ℝ≥0∞`. On the other hand, for example `limsup_sub_const` would be true in `ℝ≥0∞`, but the result doesn't apply with its current typeclasses.

**Comment by ADedecker** [comment]
> `limsup_sub_const` would be true in `ℝ≥0∞`, but the result doesn't apply to `ℝ≥0∞` with its current typeclasses.

I don't understand. `ℝ≥0∞` has `OrderedSub` according to [this terribly-named instance](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Data/Real/ENNReal.html#ENNReal.instOrderedSubENNRealToLEToPreorderToPartialOrderToCompleteSemilatticeInfToCompleteLatticeToCompletelyDistribLatticeInstCompleteLinearOrderENNRealToAddToDistribToNonUnitalNonAssocSemiringToNonAssocSemiringToSemiringToOrderedSemiringToOrderedCommSemiringInstCanonicallyOrderedCommSemiringENNRealInstSub

> A remaining asymmetry in the assumptions is that the lemmas about sub assume 5 typeclasses `[AddCommSemigroup R] [Sub R] [ContinuousSub R] [OrderedSub R] [CovariantClass R R (fun x y ↦ x + y) fun x y ↦ x ≤ y]` (including commutativity of addition, and orderedness of subtraction), whereas the lemmas about add only assumed 3, `[Add R] [ContinuousAdd R] [CovariantClass R R (fun x y ↦ x + y) fun x y ↦ x ≤ y]`.

I don't think we can do a lot about this, apart from using `CovariantClass` directly on subtraction, but I think there wouldn't be any corresponding instance. So I think this is fine.

File: Mathlib/Topology/Algebra/Order/LiminfLimsup.lean (hunk 1 above)
Comment (ADedecker) [reply Mathlib/Topology/Algebra/Order/LiminfLimsup.lean:9]: Could you move them to a new file `Mathlib.Topology.Algebra.Group.LiminfLimsup`?

Comment (ADedecker) [reply Mathlib/Topology/Algebra/Order/LiminfLimsup.lean:9]: Actually no that's probably a bad file. Let's keep them here until someone complains :sweat_smile:

File: Mathlib/Topology/Algebra/Order/LiminfLimsup.lean [hunk 2]
```diff
@@ -554,3 +555,81 @@ theorem limsup_eq_tendsto_sum_indicator_atTop (R : Type _) [StrictOrderedSemirin
...
+variable {R : Type _} [ConditionallyCompleteLinearOrder R] [TopologicalSpace R] [OrderTopology R]
+
+/-- `liminf (c + xᵢ) = c + liminf xᵢ`. -/
+lemma limsup_const_add (F : Filter ι) [NeBot F] [Add R] [ContinuousAdd R]
+    [CovariantClass R R (fun x y ↦ x + y) fun x y ↦ x ≤ y] (f : ι → R) (c : R)
+    (bdd_above : F.IsBoundedUnder (· ≤ ·) f) (bdd_below : F.IsBoundedUnder (· ≥ ·) f) :
+    Filter.limsup (fun i ↦ c + f i) F = c + Filter.limsup f F := by
+  convert (Monotone.map_limsSup_of_continuousAt (F := F.map f) (f := fun (x : R) ↦ c + x) ?_
+            (continuous_add_left c).continuousAt bdd_above bdd_below).symm
+  exact fun _ _ h ↦ add_le_add_left h c
```
Comment (ADedecker) [inline Mathlib/Topology/Algebra/Order/LiminfLimsup.lean:570]:
```suggestion
    Filter.limsup (fun i ↦ c + f i) F = c + Filter.limsup f F :=
  (Monotone.map_limsSup_of_continuousAt (F := F.map f) (f := fun (x : R) ↦ c + x)
    (fun _ _ h ↦ add_le_add_left h c)
    (continuous_add_left c).continuousAt bdd_above bdd_below).symm
```

Same below. `convert` is a heavy tactic so it's better not to use it when `refine` works, and here we can even go straight to term mode.

**Comment by kkytola** [comment]
> > `limsup_sub_const` would be true in `ℝ≥0∞`, but the result doesn't apply to `ℝ≥0∞` with its current typeclasses.
> 
> I don't understand. `ℝ≥0∞` has `OrderedSub` according to [this terribly-named instance]

The instance that is missing for `ℝ≥0∞` (for the good reason that it is false) is `[ContinuousSub]`. We of course "almost" have that, in [ENNReal.continuousOn_sub](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Topology/Instances/ENNReal.html#ENNReal.continuousOn_sub).

**Comment by kkytola** [comment]
> The instance that is missing for `ℝ≥0∞` (for the good reason that it is false) is `[ContinuousSub]`. We of course "almost" have that, in [ENNReal.continuousOn_sub](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Topology/Instances/ENNReal.html#ENNReal.continuousOn_sub).

In ENNReal, the following proof would work. It could be added, but I think it is much more ad hoc than the 8 lemmas in this PR.

```
lemma limsup_sub_const_ennReal (F : Filter ι) [NeBot F] (f : ι → ℝ≥0∞) (c : ℝ≥0∞) :
    Filter.limsup (fun i ↦ f i - c) F = Filter.limsup f F - c := by
  by_cases hc : c = ∞
  · simp [hc, limsup_const]
  · refine (@Monotone.map_limsup_of_continuousAt ι ℝ≥0∞ ℝ≥0∞ F _ _ _ _ _ _ _
            (fun x ↦ x - c) ?_ f (ENNReal.continuous_sub_right c).continuousAt
            (by isBoundedDefault) (by isBoundedDefault)).symm
    intro x y hxy
    simp only [ge_iff_le, tsub_le_iff_right, hxy.trans le_tsub_add]
```

**Comment by ADedecker** [comment]
> > > `limsup_sub_const` would be true in `ℝ≥0∞`, but the result doesn't apply to `ℝ≥0∞` with its current typeclasses.
> > 
> > 
> > I don't understand. `ℝ≥0∞` has `OrderedSub` according to [this terribly-named instance]
> 
> The instance that is missing for `ℝ≥0∞` (for the good reason that it is false) is `[ContinuousSub]`. We of course "almost" have that, in [ENNReal.continuousOn_sub](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Topology/Instances/ENNReal.html#ENNReal.continuousOn_sub).

Oooh right.

**Comment by ADedecker** [comment]
> > The instance that is missing for `ℝ≥0∞` (for the good reason that it is false) is `[ContinuousSub]`. We of course "almost" have that, in [ENNReal.continuousOn_sub](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Topology/Instances/ENNReal.html#ENNReal.continuousOn_sub).
> 
> In ENNReal, the following proof would work. It is probably useful and could be added, but I think it is much more ad hoc than the 8 lemmas in this PR.
> 
> ```
> import Mathlib.Analysis.Calculus.FDeriv.Basic
> 
> open NNReal ENNReal Filter
> 
> lemma limsup_sub_const_ennReal (F : Filter ι) [NeBot F] (f : ι → ℝ≥0∞) (c : ℝ≥0∞) :
>     Filter.limsup (fun i ↦ f i - c) F = Filter.limsup f F - c := by
>   by_cases hc : c = ∞
>   · simp [hc, limsup_const]
>   · refine (@Monotone.map_limsup_of_continuousAt ι ℝ≥0∞ ℝ≥0∞ F _ _ _ _ _ _ _
>             (fun x ↦ x - c) ?_ f (ENNReal.continuous_sub_right c).continuousAt
>             (by isBoundedDefault) (by isBoundedDefault)).symm
>     intro x y hxy
>     simp only [ge_iff_le, tsub_le_iff_right, hxy.trans le_tsub_add]
> ```

Can't you just replace [continuous_sub_right](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Topology/Algebra/Group/Basic.html#continuous_sub_right) by [ENNReal.continuous_sub_right](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Topology/Instances/ENNReal.html#ENNReal.continuous_sub_right) in the original proof? Of course you'd still have to state the lemma twice, but if the proof is as short as I imagine then it's probably worth adding.

**Comment by kkytola** [comment]
> Can't you just replace [continuous_sub_right](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Topology/Algebra/Group/Basic.html#continuous_sub_right) by [ENNReal.continuous_sub_right](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Topology/Instances/ENNReal.html#ENNReal.continuous_sub_right) in the original proof? Of course you'd still have to state the lemma twice, but if the proof is as short as I imagine then it's probably worth adding.

You are right about the good proof for `ENNReal`. I added `ENNReal` special cases of both the 2 `sub` lemmas that go through with essentially unmodified hypotheses, and the 2 `sub` lemmas that require the additional hypothesis `c ≠ ∞`.

I initially had some doubts, though. All of the 8 lemmas added in the PR are essentially special cases (albeit presumably sufficiently common to merit their own lemmas) of `Antitone.map_limsInf_of_continuousAt` and its 3 friends. When the "liminf/limsup of constant subtraction/addition (either way)" can be proven in a single lemma in a decent generality (say `ℝ` and `ℝ≥0` at once), then my opinion was that the addition of the lemmas is justified. I was not totally sure that a special case for `ℝ≥0∞` was worth an individual lemma. But after a bit of thinking I think it may be: it is likely useful in its own right, and it is likely to help people notice the corner case assumptions `(c_ne_top : c ≠ ∞)` and [`ENNReal.continuousOn_sub`](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Topology/Instances/ENNReal.html#ENNReal.continuousOn_sub) when they need this result.

File: Mathlib/Topology/Instances/ENNReal.lean [hunk 3]
```diff
@@ -1586,3 +1586,39 @@ theorem edist_le_tsum_of_edist_le_of_tendsto₀ {f : ℕ → α} (d : ℕ → 
...
+
+section LimsupLiminf
+
+namespace ENNReal
+
+lemma limsup_sub_const (F : Filter ι) [NeBot F] (f : ι → ℝ≥0∞) (c : ℝ≥0∞) :
+    Filter.limsup (fun i ↦ f i - c) F = Filter.limsup f F - c :=
+  (Monotone.map_limsSup_of_continuousAt (F := F.map f) (f := fun (x : ℝ≥0∞) ↦ x - c)
+    (fun _ _ h ↦ tsub_le_tsub_right h c)
+    (continuous_sub_right c).continuousAt (by isBoundedDefault) (by isBoundedDefault)).symm
```
Comment (ADedecker) [inline Mathlib/Topology/Instances/ENNReal.lean:1598]:
```suggestion
    (fun _ _ h ↦ tsub_le_tsub_right h c) (continuous_sub_right c).continuousAt).symm
```

File: Mathlib/Topology/Instances/ENNReal.lean [hunk 4]
```diff
@@ -1586,3 +1586,39 @@ theorem edist_le_tsum_of_edist_le_of_tendsto₀ {f : ℕ → α} (d : ℕ → 
...
+
+lemma liminf_sub_const (F : Filter ι) [NeBot F] (f : ι → ℝ≥0∞) (c : ℝ≥0∞) :
+    Filter.liminf (fun i ↦ f i - c) F = Filter.liminf f F - c :=
+  (Monotone.map_limsInf_of_continuousAt (F := F.map f) (f := fun (x : ℝ≥0∞) ↦ x - c)
+    (fun _ _ h ↦ tsub_le_tsub_right h c)
+    (continuous_sub_right c).continuousAt (by isBoundedDefault) (by isBoundedDefault)).symm
```
Comment (ADedecker) [inline Mathlib/Topology/Instances/ENNReal.lean:1604]:
```suggestion
    (fun _ _ h ↦ tsub_le_tsub_right h c) (continuous_sub_right c).continuousAt).symm
```

File: Mathlib/Topology/Instances/ENNReal.lean [hunk 5]
```diff
@@ -1586,3 +1586,39 @@ theorem edist_le_tsum_of_edist_le_of_tendsto₀ {f : ℕ → α} (d : ℕ → 
...
+
+lemma limsup_const_sub (F : Filter ι) [NeBot F] (f : ι → ℝ≥0∞)
+    {c : ℝ≥0∞} (c_ne_top : c ≠ ∞):
+    Filter.limsup (fun i ↦ c - f i) F = c - Filter.liminf f F := by
+  apply (Antitone.map_limsInf_of_continuousAt (F := F.map f) (f := fun (x : ℝ≥0∞) ↦ c - x)
+    (fun _ _ h ↦ tsub_le_tsub_left h c) ?_ (by isBoundedDefault) (by isBoundedDefault)).symm
+  convert (@ENNReal.continuous_nnreal_sub c.toNNReal).continuousAt
+  exact (coe_toNNReal c_ne_top).symm
```
Comment (ADedecker) [inline Mathlib/Topology/Instances/ENNReal.lean:1612]:
```suggestion
    Filter.limsup (fun i ↦ c - f i) F = c - Filter.liminf f F :=
  (Antitone.map_limsInf_of_continuousAt (F := F.map f) (f := fun (x : ℝ≥0∞) ↦ c - x)
    (fun _ _ h ↦ tsub_le_tsub_left h c) (continuous_sub_left c_ne_top).continuousAt).symm
```

File: Mathlib/Topology/Instances/ENNReal.lean [hunk 6]
```diff
@@ -1586,3 +1586,39 @@ theorem edist_le_tsum_of_edist_le_of_tendsto₀ {f : ℕ → α} (d : ℕ → 
...
+
+lemma liminf_const_sub (F : Filter ι) [NeBot F] (f : ι → ℝ≥0∞)
+    {c : ℝ≥0∞} (c_ne_top : c ≠ ∞):
+    Filter.liminf (fun i ↦ c - f i) F = c - Filter.limsup f F := by
+  apply (Antitone.map_limsSup_of_continuousAt (F := F.map f) (f := fun (x : ℝ≥0∞) ↦ c - x)
+    (fun _ _ h ↦ tsub_le_tsub_left h c) ?_ (by isBoundedDefault) (by isBoundedDefault)).symm
+  convert (@ENNReal.continuous_nnreal_sub c.toNNReal).continuousAt
+  exact (coe_toNNReal c_ne_top).symm
```
Comment (ADedecker) [inline Mathlib/Topology/Instances/ENNReal.lean:1620]:
```suggestion
    Filter.liminf (fun i ↦ c - f i) F = c - Filter.limsup f F :=
  (Antitone.map_limsSup_of_continuousAt (F := F.map f) (f := fun (x : ℝ≥0∞) ↦ c - x)
    (fun _ _ h ↦ tsub_le_tsub_left h c) (continuous_sub_left c_ne_top).continuousAt).symm
```

**Comment by ADedecker** [comment]
Mathlib is not minimalist: while we do like to factor things by having general lemmas, if one useful case just has to be treated separately then it should absolutely be, and not having a common generalization is not a good reason not to include it. So I think these `ENNReal` lemmas are a good addition.

**Comment by ADedecker** [comment]
Thanks!

bors d+

**Comment by kkytola** [comment]
bors r+

Thank you for the review improvements golfs!

File: Mathlib/Topology/Algebra/Order/LiminfLimsup.lean [hunk 7]
```diff
@@ -554,3 +555,79 @@ theorem limsup_eq_tendsto_sum_indicator_atTop (R : Type _) [StrictOrderedSemirin
 #align limsup_eq_tendsto_sum_indicator_at_top limsup_eq_tendsto_sum_indicator_atTop
 
 end Indicator
+
+section LiminfLimsupAddSub
+
+variable {R : Type _} [ConditionallyCompleteLinearOrder R] [TopologicalSpace R] [OrderTopology R]
```
Comment (ADedecker) [inline Mathlib/Topology/Algebra/Order/LiminfLimsup.lean:561]:
```suggestion
variable {R : Type*} [ConditionallyCompleteLinearOrder R] [TopologicalSpace R] [OrderTopology R]
```
Sorry, the change to `Type*` is more recent than this PR so I missed it. Altough the current `bors` failure does not seem to be related, this would probably cause an error in the next batch...

**Comment by ADedecker** [comment]
Could you merge master so that `Type*` is recognized?

**Comment by ADedecker** [comment]
bors retry
